US06930120B2
3-(4-Benzyloxy-phenyl)-2-(3-bromo-phenoxy)-2-methyl-propionic acid ethyl ester
3-(4-Benzyloxy-phenyl)-2-(3-bromo-phenoxy)-3-hydroxy-2-methyl-propionic acid ethyl ester (10.0 g, 20.7 mmol) was added slowly to a −20° C. solution of triethylsilane (9.9 mL, 62.0 mmol, d=0.728) and boron trifluoride etherate (15.3 mL, 124.0 mmol, d=1.154) in anhydrous CH2Cl2 (370 mL). The mixture was stirred for 6 h, gradually warming to 0° C. The reaction mixture was quenched with a saturated solution of aqueous sodium carbonate and extracted with CH2Cl2. The organic layer was dried over Na2SO4, concentrated in vacuo, and purified by flash column chromatography to provide the titled compound (3.7 g, 38%). 1H NMR (400 MHz, CDCl3): δ 7.46-7.33 (m, 5H), 7.18 (d, 2H, J=8.60 Hz), 7.15-7.05 (m, 3H), 6.94 (dt, 2H, J=8.60 Hz), 6.78 (dt, 1H, J=7.82 Hz, 2.35 Hz), 4.23 (q, 2H, J=7.04 Hz), 3.28 (d, 1H, J=13.69 Hz), 3.19 (d, 1H, J=13.69 Hz), 1.45 (s, 3H), 1.23 (t, 3H, J=7.04 Hz). Rf=0.46 in 25% ethyl acetate in hexanes.

reactant | 3-(4-Benzyloxy-phenyl)-2-(3-bromo-phenoxy)-3-hydroxy-2-methyl-propionic acid ethyl ester | 20.7 mmol, 10.0 g | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC(=CC=C1)Br)=O | C25H25BrO5
reactant | triethylsilane | 62.0 mmol, 9.9 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 124.0 mmol, 15.3 mL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 370 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Benzyloxy-phenyl)-2-(3-bromo-phenoxy)-2-methyl-propionic acid ethyl ester | 3.7 g, 38% | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC(=CC=C1)Br)=O | C25H25BrO4
